US08334287B2
b) 5-(4-iodo-2,5-dimethyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one
The title compound, light yellow cristalline solid, MS: m/e=331.0 (M+H+), was prepared in accordance with the general method of example 23b from 5-chloro-2-methyl-2H-pyridazin-3-one and 4-iodo-2,5-dimethyl-1H-imidazole.

reactant | 5-chloro-2-methyl-2H-pyridazin-3-one | ClC1=CC(N(N=C1)C)=O | C5H5ClN2O
reactant | 4-iodo-2,5-dimethyl-1H-imidazole | IC=1N=C(NC1C)C | C5H7IN2
product | 5-(4-iodo-2,5-dimethyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one | IC=1N=C(N(C1C)C1=CC(N(N=C1)C)=O)C | C10H11IN4O
